Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Cl[C:1](=[O:2])[c:3]1[cH:4][c:5]([Cl:6])[cH:7][cH:8][c:9]1[N+:10](=[O:11])[O-:12].[CH3:13][c:14]1[cH:15][cH:16][c:17](-[n:18]2[cH:19][cH:20][c:21]([NH2:22])[n:23]2)[cH:24][c:25]1[CH3:26]>>[C:1](=[O:2])([c:3]1[cH:4][c:5]([Cl:6])[cH:7][cH:8][c:9]1[N+:10](=[O:11])[O-:12])[NH:22][c:21]1[cH:20][cH:19][n:18](-[c:17]2[cH:16][cH:15][c:14]([CH3:13])[c:25]([CH3:26])[cH:24]2)[n:23]1,[CH3:13][c:14]1[cH:15][cH:16][c:17](-[n:18]2[cH:19][cH:20][c:21]([NH2:22])[n:23]2)[cH:24][c:25]1[CH3:26].[Cl:101][C:1](=[O:2])[c:3]1[cH:4][c:5]([Cl:6])[cH:7][cH:8][c:9]1[N+:10](=[O:11])[OH:12]>>[C:1](=[O:2])([c:3]1[cH:4][c:5]([Cl:6])[cH:7][cH:8][c:9]1[N+:10](=[O:11])[OH:12])[NH:22][c:21]1[cH:20][cH:19][n:18](-[c:17]2[cH:16][cH:15][c:14]([CH3:13])[c:25]([CH3:26])[cH:24]2)[n:23]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(22, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][O:2][C:3](=[O:4])[c:5]1[cH:6][cH:7][c:8]2[c:9]([CH:10]=[O:11])[cH:12][n:13][c:14](-[c:15]3[c:16]([F:17])[cH:18][c:19]([F:20])[cH:21][c:22]3[F:23])[c:24]2[cH:25]1>>[CH3:1][O:2][C:3](=[O:4])[c:5]1[cH:6][cH:7][c:8]2[c:9]([CH2:10][OH:11])[cH:12][n:13][c:14](-[c:15]3[c:16]([F:17])[cH:18][c:19]([F:20])[cH:21][c:22]3[F:23])[c:24]2[cH:25]1,[CH3:1][O:2][C:3](=[O:4])[c:5]1[cH:6][cH:7][c:8]2[c:9]([CH:10]=[O:11])[cH:12][n:13][c:14](-[c:15]3[c:16]([F:17])[cH:18][c:19]([F:20])[cH:21][c:22]3[F:23])[c:24]2[cH:25]1.[BH4-:301].[CH3][OH1:302]>>[CH3:1][O:2][C:3](=[O:4])[c:5]1[cH:6][cH:7][c:8]2[c:9]([CH2:10][OH:11])[cH:12][n:13][c:14](-[c:15]3[c:16]([F:17])[cH:18][c:19]([F:20])[cH:21][c:22]3[F:23])[c:24]2[cH:25]1,carbonyl_reduction,"[([301, 301.1], 10), ([10, 11], 11), (11, 302.1), ([302.1, 302], 302)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
F[c:1]1[cH:9][cH:8][c:4]([N+:5](=[O:6])[O-:7])[cH:3][cH:2]1.[CH3:10][N:11]1[CH2:12][CH2:13][CH:14]([N:15]2[CH2:16][CH2:17][NH:18][CH2:19][CH2:20]2)[CH2:21][CH2:22]1>>[c:1]1([N:18]2[CH2:17][CH2:16][N:15]([CH:14]3[CH2:13][CH2:12][N:11]([CH3:10])[CH2:22][CH2:21]3)[CH2:20][CH2:19]2)[cH:2][cH:3][c:4]([N+:5](=[O:6])[O-:7])[cH:8][cH:9]1,[CH3:10][N:11]1[CH2:12][CH2:13][CH:14]([N:15]2[CH2:16][CH2:17][NH:18][CH2:19][CH2:20]2)[CH2:21][CH2:22]1.[F:101][c:1]1[cH:2][cH:3][c:4]([N+:5](=[O:6])[OH:7])[cH:8][cH:9]1>>[c:1]1([N:18]2[CH2:17][CH2:16][N:15]([CH:14]3[CH2:13][CH2:12][N:11]([CH3:10])[CH2:22][CH2:21]3)[CH2:20][CH2:19]2)[cH:2][cH:3][c:4]([N+:5](=[O:6])[OH:7])[cH:8][cH:9]1,SNAr(para),"[(18, 1), ([1, 9], [9, 8]), ([8, 4], [4, 5]), ([5, 6], 6), (6, [6, 5]), ([5, 4], [4, 8]), ([8, 9], [9, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[NH:1][c:2]1[cH:3][cH:4][c:5]([C:6]([O:7][C@H:8]([c:9]2[cH:10][cH:11][c:12]([O:13][CH3:14])[c:15]([O:16][CH3:17])[cH:18]2)[CH2:19][c:20]2[c:21]([Cl:22])[cH:23][n+:24]([O-:25])[cH:26][c:27]2[Cl:28])=[O:29])[c:30]([F:31])[cH:32]1>>[NH2:1][c:2]1[cH:3][cH:4][c:5]([C:6]([O:7][C@H:8]([c:9]2[cH:10][cH:11][c:12]([O:13][CH3:14])[c:15]([O:16][CH3:17])[cH:18]2)[CH2:19][c:20]2[c:21]([Cl:22])[cH:23][n+:24]([O-:25])[cH:26][c:27]2[Cl:28])=[O:29])[c:30]([F:31])[cH:32]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[NH:1][c:2]1[cH:3][cH:4][c:5]([C:6]([O:7][C@H:8]([c:9]2[cH:10][cH:11][c:12]([O:13][CH3:14])[c:15]([O:16][CH3:17])[cH:18]2)[CH2:19][c:20]2[c:21]([Cl:22])[cH:23][n+:24]([OH:25])[cH:26][c:27]2[Cl:28])=[O:29])[c:30]([F:31])[cH:32]1.[H+:301]>>[NH2:1][c:2]1[cH:3][cH:4][c:5]([C:6]([O:7][C@H:8]([c:9]2[cH:10][cH:11][c:12]([O:13][CH3:14])[c:15]([O:16][CH3:17])[cH:18]2)[CH2:19][c:20]2[c:21]([Cl:22])[cH:23][n+:24]([OH:25])[cH:26][c:27]2[Cl:28])=[O:29])[c:30]([F:31])[cH:32]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
